* C:\Users\Ghani\Documents\ECE Projects\Variable_Voltage_Controller\Spice_Designs\Power_Selector\PMUX_Final_Design.asc
* Generated by LTspice 24.1.9 for Windows.
V§B B 0 3.3
V§S S 0 3.3
D1 B N002 BAT54
R2 S SD 50k
R3 SD 0 50k
D2 S N001 BAT54
D3 N001 N002 BAT54
M1 B CB BT BT AO6407
R5 O 0 330
M4 N003 C 0 0 AO6408
R6 CB N003 50k
M5 O CB BT BT AO6407
R7 BT CB 100k
C1 BT CB 0.1µ
M2 S CS ST ST AO6407
M3 N005 N004 0 0 AO6408
R1 CS N005 50k
M6 O CS ST ST AO6407
R8 ST CS 100k
C2 ST CS 0.1µ
M7 N004 C 0 0 AO6408
R9 S N004 100k
X§U1 B SD N002 0 C LTC6702
R10 B 0 100k
.model D D
.lib C:\Users\Ghani\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Ghani\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1 startup
.lib LTC3.lib
.backanno
.end
