* C:\Users\Ghani\Documents\ECE Projects\Variable_Voltage_Controller\Spice_Designs\Reverse_Voltage_ORing\Reverse_V_with_PMOS.asc
M1 I N001 O O AO6407
R1 O N001 100k
R2 N001 0 100
D1 N001 O 1N914
V1 I 0 6
R3 O 0 1k
.model D D
.lib C:\Users\Ghani\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Ghani\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
.backanno
.end
